US07553854B2
Synthesis of 4-{2-[(2,3-Dihydro-benzo[1,4]dioxine-5-carbonyl)-amino]-benzooxazol-6-yloxy}-pyridine-2-carboxylic acid methylamide (Table 2, Compound 110)
4-(2-Amino-benzooxazol-6-yloxy)-pyridine-2-carboxylic acid methylamide (1 eq) and 2,3-dihydro-1,4-benzodioxane-5-carboxylic acid (1 eq) were dissolved in DMF. To this solution were added DIPEA (3 eq) and [dimethylamino-([1,2,3]triazolo[4,5-b]pyridin-3-yloxy)-methylene]-dimethyl-ammonium hexafluoro phosphate (1 eq). The mixture was stirred at 40° C. overnight, then diluted with ethyl acetate and washed once each with 1N HCl, saturated aqueous sodium bicarbonate, and brine, and finally dried with anhydrous sodium sulfate, filtered, and concentrated. This was purified by preparatory reverse phase HPLC. MH+=447.0.

reactant | 4-(2-Amino-benzooxazol-6-yloxy)-pyridine-2-carboxylic acid methylamide | 1 eq | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(O2)N)C=C1 | C14H12N4O3
reactant | 2,3-dihydro-1,4-benzodioxane-5-carboxylic acid | 1 eq | C1COC2=C(C=CC=C2O1)C(=O)O | C9H8O4
reactant | DIPEA | 3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | [dimethylamino-([1,2,3]triazolo[4,5-b]pyridin-3-yloxy)-methylene]-dimethyl-ammonium hexafluoro phosphate | 1 eq | F[P-](F)(F)(F)(F)F.CN(C)C(ON1N=NC=2C1=NC=CC2)=[N+](C)C
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{2-[(2,3-Dihydro-benzo[1,4]dioxine-5-carbonyl)-amino]-benzooxazol-6-yloxy}-pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(O2)NC(=O)C2=CC=CC=3OCCOC32)C=C1 | C23H18N4O6
